US07652007B2
f) 2-Benzyloxycarbonylamino-3-(2,4-dichlorobenzenesulfonylamino)-2-methylpropionic Acid
0.08 g (0.168 mmol) of methyl 2-benzyloxycarbonylamino-3-(2,4-dichlorobenzenesulfonylamino)-2-methylpropionate and 0.093 g (0.674 mmol) of potassium carbonate are stirred in a mixture of 4.5 ml of MeOH and 0.5 ml of water for 90 min. Then 3 ml of saturated NaHCO3 solution are added, and the mixture is stirred at 60° C. for 2 h. 0.5 ml of water is added, followed by 4N HCl (aq) until a pH of 2 is reached. The solution is extracted 3 times with 10 ml of EtOAc each time, the combined organic phases are dried over MgSO4, and the solvent is removed in vacuo. 68 mg of the desired product are obtained. MW=460 (calculated, monoisotopic), measured value: (M+H)+461.

reactant | methyl 2-benzyloxycarbonylamino-3-(2,4-dichlorobenzenesulfonylamino)-2-methylpropionate | 0.168 mmol, 0.08 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)(CNS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)C | C19H20Cl2N2O6S
reactant | potassium carbonate | 0.674 mmol, 0.093 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 4.5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 2-Benzyloxycarbonylamino-3-(2,4-dichlorobenzenesulfonylamino)-2-methylpropionic Acid | 68 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CNS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)C | C18H18Cl2N2O6S
